US06399644B1
To a solution of acetone oxime (74 mg, 1.0 mmol) in DMF (6 mL) was added sodium t-butoxide (1 M in THF, 1.0 mL). The mixture was stirred at room temperature for half hour followed by addition of a solution of 1,1-dimethylethyl 7-[4-[[[1-[4-fluoro-3-cyanophenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]carbonyl]amino]phenyl]-1,2-benzisothiazole-2(3H)-carboxylate 1,1-dioxide (0.22 g, 0.34 mmol) prepared according to Example 15 in DMF (4 mL). The reaction was stirred at room temperature for 5 hours. The reaction mixture was then partitioned between ethyl acetate and HCl (5%), washed with HCl (5%), four times with water, brine, dried over sodium sulfate, filtered and concentrated. Flash chromatography (30% ethyl acetate/hexane) gave 100 mg of 1,1-dimethylethyl 7-[4-[[[1-[4-isopropylideneaminooxy-3-cyanophenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]carbonyl]amino]phenyl]-1,2-benzisothiazole-2(3H)-carboxylate 1,1-dioxide. The intermediate (100 mg, 0.14 mmol) was dissolved in ethanol (4 mL) and to the solution was added HCl (20%, 4 mL). The reaction mixture was stirred at 80° C. for three hours. The reaction mixture was cooled to room temperature. The white precipitate was filtered to give the product that was purified by HPLC utilizing gradient elution with a mixture of water: acetonitrile with 0.05% of trifluoroacetic acid on a reverse phase C18(60 angstrom) column to give the title compound (37 mg, 19%). LRMS (ES+) 577.1 (M+Na)+.

reactant | acetone oxime | 1.0 mmol, 74 mg | CC(C)=NO | C3H7NO
reactant | sodium t-butoxide | 1 M, 1.0 mL | CC(C)([O-])C.[Na+]
reactant | 1,1-dimethylethyl 7-[4-[[[1-[4-fluoro-3-cyanophenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]carbonyl]amino]phenyl]-1,2-benzisothiazole-2(3H)-carboxylate 1,1-dioxide | 0.34 mmol, 0.22 g | FC1=C(C=C(C=C1)N1N=C(C=C1C(=O)NC1=CC=C(C=C1)C1=CC=CC=2CN(S(C21)(=O)=O)C(=O)OC(C)(C)C)C(F)(F)F)C#N | C30H23F4N5O5S
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 1,1-dimethylethyl 7-[4-[[[1-[4-isopropylideneaminooxy-3-cyanophenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]carbonyl]amino]phenyl]-1,2-benzisothiazole-2(3H)-carboxylate 1,1-dioxide | 100 mg | C(C)(C)=NOC1=C(C=C(C=C1)N1N=C(C=C1C(=O)NC1=CC=C(C=C1)C1=CC=CC=2CN(S(C21)(=O)=O)C(=O)OC(C)(C)C)C(F)(F)F)C#N | C33H29F3N6O6S
